US07776986B2
Preparation of Butene-1/Ethylene/Propylene Terpolymer
The preparation described in Example 10 was repeated with the difference that 3 g of ethylene and 5 g of propylene were fed after feeding of butene-1. During polymerization, the pressure was kept constant by feeding a 2/1 g/g ethylene/propylene mixture. The final polymer, the characterization of which is reported in Table 1, contained 1.1% wt of ethylene and 0.9% of propylene. The DSC analysis showed no melting peak.

reactant | ethylene | 3 g | C=C | C2H4
reactant | propylene | 5 g | C=CC | C3H6
reactant | butene-1 | CCC=C | C4H8
reactant | ethylene/propylene | C=C.C=CC
product | Butene-1 Ethylene/Propylene | CCC=C.C=C.C=CC | InChI=1S/C4H8.C3H6.C2H4/c1-3-4-2;1-3-2;1-2/h3H,1,4H2,2H3;3H,1H2,2H3;1-2H2
